US06794395B1
3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-6-(pyrrol-1-yl)-2-indolinone
0.5 g of 6-amino-3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-2-indolinone are dissolved in 20 ml of glacial acetic acid and 0.2 ml of 2,5-dimethoxytetrahydrofuran are added. The mixture is refluxed for 1 hour, concentrated by evaporation and the residue is taken up in 20 ml of water. After another 2 hours' stirring the mixture is made basic with 1N sodium hydroxide solution, the aqueous phase is extracted with methylene chloride and the organic phase is dried over sodium sulphate. After elimination of the solvent the residue is purified through a silica gel column with methylene chloride/methanol (4:1) as eluant.

reactant | 6-amino-3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-2-indolinone | 0.5 g | NC1=CC=C2/C(/C(NC2=C1)=O)=C(\C1=CC=CC=C1)/NC1=CC=C(C=C1)CN1CCCCC1 | C27H28N4O
reactant | 2,5-dimethoxytetrahydrofuran | 0.2 ml | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-6-(pyrrol-1-yl)-2-indolinone | N1(CCCCC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)N2C=CC=C2)=O)C=C1 | C31H30N4O
